US06878850B2
A 30 mL of reactor equipped with magnetic stir bar was charged with 50 mg (0.09 mmol) of (t-Bu)2PCl)2PdCl2, 0.50 g (4.4 mmol) of 2-chloropyridine, 0.70 g (4.14 mmol) of Ph2NH and 0.58 g (5.17 mmol) of KO-t-Bu in 2 mL of toluene. The reaction mixture was refluxed overnight. The reaction mixture was cooled to room temperature, transferred to a separatory funnel, and diluted with 100 mL of diethyl ether and 20 mL of H2O. The layers were separated, and organic layer was washed with H2O (2×50 mL), brine (30 mL), and dried over MgSO4, filtered, and solvents removed from the filtrate by rotary evaporation. The resulting residue was chromatographed on silicon gel. The eluate was concentrated by rotary evaporation followed by high vacuum to give 2-pyridyldiphenylamine. LC-MS Found: 247.3 (M++1).

reactant | (t-Bu)2PCl | 0.09 mmol, 50 mg | P(C(C)(C)C)(C(C)(C)C)Cl | C8H18ClP
reactant | 2-chloropyridine | 4.4 mmol, 0.50 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | Ph2NH | 4.14 mmol, 0.70 g | N(C1=CC=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | KO-t-Bu | 5.17 mmol, 0.58 g | O([K])C(C)(C)C
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | H2O | 20 mL | O | H2O
product | 2-pyridyldiphenylamine | N1=C(C=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C17H14N2
